US05955471
(S)-3-(N-Methyl-thiocarbamoyloxymethyl)-N-(anilinocarbonyl)-1,2,3,4-tetrahydroisoquinoline
(S)-3-(N-Methyl-thiocarbamoyloxymethyl) -1,2,3,4-tetrahydroisoquinoline (1.0 g, 4.94 mmol) dissolved in 20 mL dichloromethane was combined with PhNCO (1.0 g) and stirred for 24 h at rt. The reaction mixture was evaporated and the crude product was purified by column-chromatography (SiO2, hexanes:EtOAc=3:2) to provide the product as white solid (1.7 g).

reactant | (S)-3-(N-Methyl-thiocarbamoyloxymethyl) -1,2,3,4-tetrahydroisoquinoline | 4.94 mmol, 1.0 g | CNC(=S)OC[C@H]1NCC2=CC=CC=C2C1 | C12H16N2OS
reactant | PhNCO | 1.0 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-3-(N-Methyl-thiocarbamoyloxymethyl)-N-(anilinocarbonyl)-1,2,3,4-tetrahydroisoquinoline | 1.7 g | CNC(=S)OC[C@H]1N(CC2=CC=CC=C2C1)C(=O)NC1=CC=CC=C1 | C19H21N3O2S
